US06313127B1
A solution of 1-(4-formylphenyl)-4-(4-pyridyl)piperazine (1.0 g), 4-methoxyacetophenone (503 mg) and concentrated sodium hydroxide (3 drops) in ethanol (25 ml) was stirred at ambient temperature overnight to give a solid which was dissolved in ethanol (100 ml) and hydrogenated over 10% palladium on charcoal to give a solid which was recrystallised from a mixture of ethyl acetate/isohexane to give 1-(4-[4-methylbenzoylethyl]-phenyl)-4-(4-pyridyl)piperazine (400 mg), m.p. 114-115° C.

reactant | 1-(4-formylphenyl)-4-(4-pyridyl)piperazine | 1.0 g | C(=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C16H17N3O
reactant | 4-methoxyacetophenone | 503 mg | CC(=O)C1=CC=C(C=C1)OC | C9H10O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | sodium hydroxide | 3 drops | [OH-].[Na+]
catalyst | palladium on charcoal | [Pd] | Pd
product | 1-(4-[4-methylbenzoylethyl]-phenyl)-4-(4-pyridyl)piperazine | 400 mg | CC1=CC=C(C(=O)CCC2=CC=C(C=C2)N2CCN(CC2)C2=CC=NC=C2)C=C1 | C25H27N3O
